US06730792B2
A mixture of 4-chloro-2-hydroxybenzoic acid hydrazide (Chemical Abstracts, 93:7808, 475 mg, 2.55 mmol) and triethylorthoformate. (3.6 ml) is heated at 130° C. for 3.5 hours. After cooling, a precipitate formed and is collected by filtration. The filter cake is recrystallized from methanol to give 173 mg (35%) of 5-chloro-2-(1,3,4-oxadiazol-2-yl)phenol. This phenolic product is reacted with (2S)-glycidyl 3-nitrobenzenesulfonate substantially as described for Epoxide 1 to yield 170 mg (69%) of the title epoxide.

reactant | 4-chloro-2-hydroxybenzoic acid hydrazide | 2.55 mmol, 475 mg | ClC1=CC(=C(C(=O)NN)C=C1)O | C7H7ClN2O2
reactant | triethylorthoformate | C(C)OC(OCC)OCC | C7H16O3
product | 5-chloro-2-(1,3,4-oxadiazol-2-yl)phenol | 173 mg, 35% | ClC=1C=CC(=C(C1)O)C=1OC=NN1 | C8H5ClN2O2
